US07795262B2
Step 1. Preparation of tert-butyl 4-formylpyridin-3-ylcarbamate
At −78° C., to a solution of tert-butyl pyridin-3-ylcarbamate (2.98 g, 15.34 mmol) in THF (60 mL) is added t-BuLi (1.7 N, 21.65 mL, 36.8 mmol) dropwise while maintaining the internal temperature below −70° C. Then, the mixture is allowed to warm to −20° C. for 2 hr and piperidine-1-carbaldehyde (5.11 mL, 46.02 mmol) is added dropwise and the mixture is stirred at −20° C. to rt overnight. Saturated NH4Cl solution (30 mL) is added and the layers are separated. The aqueous layer is extracted with EtOAc (45 ml) and the combined extracts are dried and evaporated. The residue is purified by flash column with hexane/EtOAc (4:1) to give the title compound as a white solid. MS (M+1): 223.1.

reactant | tert-butyl pyridin-3-ylcarbamate | 15.34 mmol, 2.98 g | N1=CC(=CC=C1)NC(OC(C)(C)C)=O | C10H14N2O2
reactant | t-BuLi | 36.8 mmol, 1.7 N, 21.65 mL | [Li]C(C)(C)C
reactant | piperidine-1-carbaldehyde | 46.02 mmol, 5.11 mL | N1(CCCCC1)C=O | C6H11NO
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-formylpyridin-3-ylcarbamate | C(=O)C1=C(C=NC=C1)NC(OC(C)(C)C)=O | C11H14N2O3
